US04673429
20 g of dimethylacrylyl chloride, dissolved in 100 g of acetonitrile, are added to 20 g of 4-chloro-1-hydroxypyrazole, 20 g of sodium carbonate and 150 g of acetonitrile at 25° C., while stirring. Stirring is continued for 12 hours at 25° C., after which the solid product is filtered off under suction and washed with 100 g of acetonitrile. The solution is evaporated down at 40° C. and under 20 mbar, the residue is taked up in 200 g of dichloromethane, the solution is extracted 3 times with 200 g of saturated aqueous sodium bicarbonate solution, the organic phase is dried with magnesium sulfate and evaporated down, and the residue is digested with 300 g of petroleum ether. 30.5 g (90% of theory) of 4-chloropyrazol-1-yl 3,3-dimethylacrylate of melting point 71° C. are obtained.

reactant | dimethylacrylyl chloride | 20 g | CC(=CC(=O)Cl)C | C5H7ClO
reactant | 4-chloro-1-hydroxypyrazole | 20 g | ClC=1C=NN(C1)O | C3H3ClN2O
reactant | sodium carbonate | 20 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 100 g | C(C)#N | C2H3N
solvent | acetonitrile | 150 g | C(C)#N | C2H3N
product | 4-chloropyrazol-1-yl 3,3-dimethylacrylate | 30.5 g, 90% | CC(=CC(=O)ON1N=CC(=C1)Cl)C | C8H9ClN2O2
